US05082847
(A) 8-Phenylmethoxy-3,4-dihydro-5-[2-hydroxy-3-(4-(isobutoxycarbonylamino)-1-piperidyl)propoxy]carbostyril
5-(2,3-epoxypropoxy)-8-phenylmethoxy-3,4-dihydrocarbostyril (130 mg) was dissolved in isopropanol (10 mL) and isobutyl 4-piperidylcarbamate (80 mg) was added. The mixture was then heated under reflux for 20 hours with stirring. After completion of the reaction, the isopropanol was evaporated under reduced pressure. The residue was then purified by flash chromatography (AcOEt/MeOH-99:1) to yield 160 mg of the title compound, 8-phenylmethoxy-3,4-dihydro-5-[2-hydroxy-3-(4-(isobutoxycarbonylamino)-1-piperidyl)propoxy]carbostyril.

reactant | 5-(2,3-epoxypropoxy)-8-phenylmethoxy-3,4-dihydrocarbostyril | 130 mg | O1C(COC2=C3CCC(NC3=C(C=C2)OCC2=CC=CC=C2)=O)C1 | C19H19NO4
reactant | isobutyl 4-piperidylcarbamate | 80 mg | N1CCC(CC1)NC(OCC(C)C)=O | C10H20N2O2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 8-Phenylmethoxy-3,4-dihydro-5-[2-hydroxy-3-(4-(isobutoxycarbonylamino)-1-piperidyl)propoxy]carbostyril | 160 mg | C1(=CC=CC=C1)COC=1C=CC(=C2CCC(NC12)=O)OCC(CN1CCC(CC1)NC(=O)OCC(C)C)O | C29H39N3O6
